Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Change in mental status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
History per son and patient. ___ yo male recent right MCA stroke 
two months ago transferred directly from OSH for management of 
intermittent delerium. Suffered right MCA stroke on ___, 
with left arm hand and leg weakness, small infarct CT/MRI. Prior 
to stroke, full ADLs. Developed severe, intermittent, repetitive 
spasms/jerking of his left leg within a day or two. He indicated 
that he had had some of this previously but no family member had 
ever seen this. Started on oxycodone and ropinirole for possible 
restless leg syndrome. Seemed more like hemiballismus to son. 
Following stroke, patient was transferred ___ 
___ in ___. He was treated for Proteus and Klebsiella 
UTI with ciprofloxacin.  
.  
Post stroke mental status normal for about ___ days then 
delerium started. Apparently was awake much of the night at 
rehab (___/ ___) for ___ weeks, 
agitated, confused, disoriented. continued ropinirole, 
oxycodone. More functional during the day and able to 
participate in ___, OT, cognitive therapy. Regularly exhausted 
during the day, always wanting to sleep between therapies. 
Mental status waxing and waning but often quite normal during 
the day. Trial of pregabalin, olanzapine, and clonazepam, 
discontinued.  
.  
10 days ago, had episode of orthostatic hypotension (not 
documented). Returned to ___ twice for repeat CT scans because 
of mental status changes. Repeat CT head was unremarkable, see 
below. urinalysis was unremarkable. Initial report suggested 
extension of infarct but review with neurologist and radiologist 
indicated no increase. TTE showed significant atherosclerotic 
disease of the aortic arch. MS improved during time at ___. He 
also received haloperidol 5 mg, and was sedated for most of two 
days. 8 days ago, seen by son, back at baseline.  
.  
One week ago, more delerious -> more haldol. started risperdal 
___, increased to BID. Also started citalopram. 2 days ago, 
very sedated. Last dose risperdal two days per son. this 
afternoon, back at baseline. Transferred for further eval.  
.  
On the floor, patient was requesting something to drink. He was 
expressing frustration with ambulance driver. He was complaining 
of pain near the foley catheter, and of feeling cold, and a dry 
cough. He had no other complaints. Specifically, denied 
fevers/chills. No chest pain, dyspnea. No abdominal pain. Denied 
constipation. He reports improving strength in his LUE and LLE. 
He also endorses intermittent left calf pain/spasm. He has been 
frustrated at times over the past few weeks with rehab.  
.  
Of note, elevated BP, with SBP > 200, noted at time of 
re-transfer to OSH 10 days ago and intermittently for 
delerium/agitation. Patient has required parenteral hydralazine 
and ACEi, when agitated and not taking PO, to manage HTN at OSH. 
Patient has AAA, 5.4 cm, on recent CT a/p.  
.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthralgias or myalgias. 
 
Past Medical History:
right MCA stroke as noted above  
.  
Before the stroke mental status normal: lived alone, took care 
of himself and his house with help. Drove his car, shopped, 
cooked for himself, met friends for lunch, paid his own bills, 
managed his finances. He had a cerebral event ?TIA vs stroke 
___, seen at ___ with left hand sx. These sx resolved.  
.  
burn right leg as a child  
C-spine, L-spine surgeries x 2 or 3: disk disease and spinal 
stenosis  
R carotid endarterectomy ___ years ago, subsequent carotid u/s 
normal per son  
___ shoulder rotator cuff tears and pain  
Retinal detachment s/p injection therapy this year  
Type II DM  
Gout  
HTN  
COPD  
BPH  
dyslipidemia  
AAA  
Chronic renal insufficiency stage IV, baseline creatinine 3 to 
3.5 -> Has been on procrit injections from hematologist on ___ 
___  

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Admission Physical Exam
Vitals: 99.2 156/66 HR 62 RR 18 93% RA  
General: Awake and Alert but not oriented to place or time, 
answers yes or no questions, NOAD  
HEENT: MMM  
Neck: supple, JVP not elevated, no LAD  
Lungs: bibasilar inspiratory rales, no wheezes or ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis trace 
edema 
Neuro: CNs II-XII intact, unable to assess stregth due to 
patients inability to follow intructions.

Discharge Physical Exam
Vitals: 139/66
Gen: AAOx2 (self and time) not to place or situation
Lungs: CTA-B, -w/r/r, good air movement
Left Hand: noted to be edematous with ___ MCP being tender and 
warm to touch
 
Pertinent Results:
Chest X-Ray ___:
FINDINGS: No relevant change as compared to the previous 
examination.  
Moderate cardiomegaly, mild-to-moderate pulmonary edema. The 
presence of 
small pleural effusions cannot be excluded. No newly appeared 
focal 
parenchymal opacity suggesting the presence of pneumonia. 
.
Video Swallow ___:
1. PO diet: thin liquids, regular consistency solids. 
2. 1:1 supervision to maintain strict aspiration precautions
including:
     a. Chin tuck for all sips of liquid.
     b. Take small sips.
     c. 2 swallows per sip to clear oral cavity residue. 
3. Meds whole or crushed with applesauce, do not give whole with
water due to risk for aspiration. 
4. TID oral care. 
5. We will f/u later this week for diet tolerance and 
maintenance of swallowing strategies.
.
 ___ 10:25PM BLOOD WBC-9.8 RBC-3.39* Hgb-10.6* Hct-32.8* 
MCV-97 MCH-31.4 MCHC-32.4 RDW-17.8* Plt ___
___ 07:44AM BLOOD WBC-7.6 RBC-3.40* Hgb-10.0* Hct-33.3* 
MCV-98 MCH-29.3# MCHC-30.0*# RDW-17.5* Plt ___
___ 10:25PM BLOOD Glucose-108* UreaN-40* Creat-2.5* Na-148* 
K-3.7 Cl-116* HCO3-20* AnGap-16
___ 07:44AM BLOOD Glucose-101* UreaN-42* Creat-2.6* Na-147* 
K-4.0 Cl-114* HCO3-23 AnGap-14
___ 10:25PM BLOOD TSH-2.4
___ 10:25PM BLOOD VitB12-1117* Folate-11.3
___ 10:14AM BLOOD Type-ART Temp-37.3 pO2-78* pCO2-32* 
pH-7.43 calTCO2-22 Base XS--1 Intubat-NOT INTUBA
___ 10:25PM BLOOD ALT-12 AST-16 CK(CPK)-80 AlkPhos-117 
TotBili-0.4
.
Urine Culture ___:
      ENTEROCOCCUS SP..    10,000-100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------   <=2 S
NITROFURANTOIN--------  <=16 S
TETRACYCLINE----------  =>16 R
VANCOMYCIN------------     1 S

 
Brief Hospital Course:
Mr. ___ is an ___ y/o male with a hx of HTN, DM2, dylipidemia, 
recent CVA ___ who presented from OSH for further management of 
change in mental status.
.
1) Change in Mental Status: His mental status waxed and waned 
which was most consistent with a delerium. He was recenlty 
treated for a UTI (recent hospitalization) and was noted to have 
an elevated creatinine which normalized with fluids. His sodium 
was also been noted to be elevated which corrected with fluids 
as well. He also had multiple med changes as well as interuppted 
sleep which all may have contributed to his change in mental 
status. As for a neurological cause, he has no new focal 
neurological deficits although neuro exam was difficult to 
assess (stable left sided weakness ___ to recent stroke). He had 
no fevers, cough, meningismus or dysuria therefore infection was 
less likley. As for other metabolic causes, he has been 
extensively worked up at outside hospitals which have all been 
negative. His urine was found to be growing enterococcus 
10,000-100,000 which was treated with a 7 day course of 
augmentin. As per neurology they felt that EEG was consistent 
with toxic/metabolic and not seizure. After discussion with 
family LP was felt not to be indicated. After an extensive 
workup it was unclear why he continued to have delerium. Based 
on recent events his mental status was most likley due to recent 
stroke.
.
2) Nutrition: He was noted to have decreased PO intake. He was 
refusing his medications and was not eating. Nutrition was 
consulted and they advanced his diet to regular solid foods with 
thin liquids. They recommended a chin tuck, 1 sip at a time with 
2 swallows. Please encourage family to encourage patient to take 
in oral intake.
.
3) MCA Stroke: According to admission notes his neuro exam had 
not changed. He has baseline residual left sided weakness. Left 
arm weakness is most prominent.
.
4) Hypernatremia: He was noted to have an elevated sodium which 
was thought to be secondary to poor PO intake. He received D5W 
and his sodium improved. He was encouraged to take in as much PO 
(free water) intake. However, despite this he developed 
hypernatremia. Please check sodium every 3 days and correct with 
D5W. 
.
5) HTN: He was restarted on his home medications. He was 
continued on metoprolol, Lisinopril and Valsartan
.
6) Anemia: He was noted to have a macrocytic anemia however his 
folate and B12 were within normal limits. ___ be secondary to 
chronic renal insufficiency.
.
7) Left Hand Pain ___ MCP): He has a history of gout and his 
presentation was consistent with a gout flare. He denies any 
fevers, chills or night sweats. He was given a one time dose of 
colchicine 0.6mg. If gout persists may repeat 0.6 once.
 
Medications on Admission:
risperdone 0.25 mg PO BID  
furosemide 20 mg IV PRN  
enalapril 2.5 mg IV Q6 PRN  
irbesartan 150 mg daily  
nystatin powder TP TID PRN  
ibuprofen 400 mg PRN  
heparin 5000 units SC TID  
colchicine 0.6 mg daily  
Imdur 30 mg BID  
acetaminophen 650 mg daily  
erythromycin base  
tamsulosin 0.4 mg QHS  
ferrous gluconate 325 mg daily  
clopidogrel 75 mg daily  
allopurinol ___ mg daily  
simvastatin 40 mg daily  
atenolol 25 mg daily, last dose ___  
SSI  
pantoprazole 40 mg daily  
recently received ciprofloxacin, presumably for UTI, unclear by 
records  

 
Discharge Medications:
1. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. isosorbide mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
3. metoprolol tartrate 25 mg Tablet Sig: 0.5 Tablet PO TID (3 
times a day).  
4. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  PO 
DAILY (Daily) as needed for constipation.  
6. docusate sodium 50 mg/5 mL Liquid Sig: One (1)  PO BID (2 
times a day).  
7. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
8. lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
9. doxazosin 1 mg Tablet Sig: One (1) Tablet PO HS (at bedtime). 
 
10. valsartan 40 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
11. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day) as needed for pain.  

1. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. isosorbide mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
3. metoprolol tartrate 25 mg Tablet Sig: 0.5 Tablet PO TID (3 
times a day).  
4. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  PO 
DAILY (Daily) as needed for constipation.  
6. docusate sodium 50 mg/5 mL Liquid Sig: One (1)  PO BID (2 
times a day).  
7. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
8. lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
9. doxazosin 1 mg Tablet Sig: One (1) Tablet PO HS (at bedtime). 
 
10. valsartan 40 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
11. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day) as needed for pain.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
Altered Mental Status
Hypernatremia
Urinary Tract Infection

Secondary Diagnosis
Hypertension

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were admitted because you having episodes of confusion about 
one and half weeks after you sustained a stroke. You had an 
extensive workup which was unrevealing. It is unclear why you 
continued to have these episodes of confusion, but it is most 
likely related to the stroke you sustained. You were also on 
many medication when you first arrived which could cause 
confusion however even with the medications out of your system 
you continued to have some confusion.

You were also noted to have elevated sodium level. The most 
likley cause of your elevated sodium was decreased fluid intake. 
This was originally thught to be contributing to your confusion 
however when the sodium was corrected with IV fluids you 
continued to have episodes of confusion.

You were also noted to have a urinary tract infection. You 
completed a 7 day course of the antibiotic Augmentin. You 
tolerated this well however you continued to have episodes of 
confusion. 

Your blood pressure was elevated during this admission. You were 
started on your home blood pressure medications and your blood 
pressure responded appropriately.
 
Followup Instructions:
___